US07317027B2
1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid
To a solution of 630 mg of 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid methyl ester in 60 mL MeOH, 8.7 mL of a 1M aqueous NaOH solution were added. The reaction mixture was heated to 60° C. for 3 h. After cooling to RT 8.8 mL of a 1M aqueous HCl were added and the solvents were removed under reduced pressure. The residue was stirred with water/MeCN 2:1 and the precipitated product was collected by filtration.

reactant | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid methyl ester | 630 mg | COC(=O)C=1C=C2C(=NC1)N(C(=C2)C(NC2CCN(CC2)C(C)C)=O)CC2=NOC(=C2)C=2SC(=CC2)Cl | C26H28ClN5O4S
reactant | NaOH | 1M | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | MeOH | 60 mL | CO | CH4O
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-pyrrolo[2,3-b]pyridine-5-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=CC=2C1=NC=C(C2)C(=O)O)C(NC2CCN(CC2)C(C)C)=O | C25H26ClN5O4S
